US09340549B2
To a solution of in prop-1-en-2-ylbenzene (commercially available from Sigma-Aldrich, Milwaukee, Wis.) (2 g, 16.9 mmol) in a THF (20 mL): H2O (10 mL) mixture were added N-methylmorpholine N-oxide (1.98 g, 16.9 mmol) and osmium tetroxide (429.90 mg, 1.6 mmol) at 0° C. The resulting reaction mixture was stirred for 2 hours at ambient temperature. After completion of reaction (monitored by TLC (TLC eluent: 30% EtOAc in petroleum ether)), the reaction mixture was diluted with water and extracted with EtOAc. The organic layers were combined and washed with water, washed with saturated NaCl solution, and dried on anhydrous Na2SO4. Then the organic layer was filtered and concentrated under vacuum to provide a residue which was purified by column chromatography eluting with 50-60% EtOAc in hexane to afford 2-phenylpropane-1,2-diol, 1.5 g (58.25%) as a colorless liquid. 1H NMR (400 MHz, DMSO-d6): δ 7.45-7.43 (m, 2H), 7.30-7.26 (m, 2H), 7.20-7.16 (m, 1H), 4.86 (s, 1H), 4.68 (t, J=6 Hz, 1H), 3.39 (d, J=6 Hz, 1H), 1.38 (s, 3H). (no MS ionization).

reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | N-methylmorpholine N-oxide | 16.9 mmol, 1.98 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | prop-1-en-2-ylbenzene | C=C(C)C1=CC=CC=C1 | C9H10
solvent | water | O | H2O
catalyst | osmium tetroxide | 1.6 mmol, 429.90 mg | [Os](=O)(=O)(=O)=O
solvent | H2O | 10 mL | O | H2O
product | 2-phenylpropane-1,2-diol | C1(=CC=CC=C1)C(CO)(C)O | C9H12O2
